US07459106B2
Preparation of 4-bromophenyl n-butyl sulfide (62).
4-Bromobenzenethiol (5 g, 26.44 mmol) was added to a solution of sodium methoxide (1.43 g, 26.48 mmol) in 20 ml of anhydrous methanol. The mixture was stirred for 30 min under nitrogen at room temperature and a solution of methyl iodide (4.51 g, 31.77 mmol) in 20 ml anhydrous methanol was then added. The reaction mixture was stirred overnight at room temperature, poured into 2 M of NaOH aqueous solution (30 ml) and extracted three times with ether (3×100 ml ). The combined organic layer was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After removal of solvent, the product was purified by distillation at 117-119° C. (0.5 mmHg) and was isolated in 88.4% (5.72 g) yield.

reactant | 4-Bromobenzenethiol | 26.44 mmol, 5 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | sodium methoxide | 26.48 mmol, 1.43 g | C[O-].[Na+]
reactant | methyl iodide | 31.77 mmol, 4.51 g | CI | CH3I
reactant | NaOH | 2 M, 30 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 4-bromophenyl n-butyl sulfide | C(CCC)SC1=CC=C(C=C1)Br | C10H13BrS
